US07795283B2
v) Benzyl [6-(1,4-dioxaspiro[4.5]dec-8-yl)pyridin-3-yl]carbamate
To an ice water cooled solution of 6-(1,4-dioxaspiro[4.5]dec-8-yl)pyridin-3-amine (3.08 g, 13.15 mmol), prepared as above, in THF (50 mL) was added pyridine (3.19 mL, 39.44 mmol) followed by benzyl chloroformate (1.9 mL, 13.15 mmol). The resulting suspension was allowed to stir at 0° C., then after 2 hrs a further 0.5 mL of benzyl chloroformate was added and reaction mixture was allowed to stir at ambient temperature overnight. It was partitioned between EtOAc (100 mL) and water (50 mL), the organic phase was separated and the aqueous phase re extracted into EtOAc (200 mL). The organic extracts were combined, dried and concentrated to leave crude product. This was purified on a 120 g silica SiliCycle cartridge, eluting with 30-50% EtOAc/isohexane using an Isco Companion, to provide the title compound (4.94 g, 100%); 1H NMR (CDCl3) δ 1.66-1.97 (m, 8H), 2.70-2.77 (m, 1H), 3.97 (s, 4H), 5.21 (s, 2H), 6.71 (s, 1H), 7.16 (d, 1H), 7.35-7.41 (m, 5H), 7.91 (s, 1H), 8.37 (s, 1H); MS m/e MH+ 369.

reactant | 6-(1,4-dioxaspiro[4.5]dec-8-yl)pyridin-3-amine | 13.15 mmol, 3.08 g | O1CCOC12CCC(CC2)C2=CC=C(C=N2)N | C13H18N2O2
reactant | pyridine | 39.44 mmol, 3.19 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl chloroformate | 13.15 mmol, 1.9 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 0.5 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Benzyl [6-(1,4-dioxaspiro[4.5]dec-8-yl)pyridin-3-yl]carbamate | 4.94 g, 100% | O1CCOC12CCC(CC2)C2=CC=C(C=N2)NC(OCC2=CC=CC=C2)=O | C21H24N2O4
